US07169926B1
A solution of tosyl chloride (30.0 g, 160 mmol) in 100 mL of acetonitrile was added to a stirred solution of the 4-hydroxy-1-methyl-3-nitro-1H-quinolin-2-one (32.0 g, 145.0 mmol), Et3N (17.65 g, 174.4 mmol), and DMAP (0.178 g, 1.45 mmol) in 300 mL of MeCN at 0° C. After the addition was complete, the reaction mixture was heated at 35° C. for 3 h. After the solvent was evaporated under reduced pressure, water (35 mL) and CH2Cl2 (50 mL) were added to the residue. The resulting precipitate was removed by filtration, and the filtrate was extracted with CH2Cl2 (3×200 mL). The combined extracts were dried, filtered through a plug of SiO2, and concentrated. The resulting residue was combined with the solid isolated earlier, and was triturated with ether to give 41.0 g (75%) of toluene-4-sulfonic acid 1-methyl-3-nitro-2-oxo-1,2-dihydro-quinolin-4-yl ester. 1H-NMR (CDCl3): δ 8.16 (dd, 1H, J=7.6, 1.2 Hz), 7.90 (m, 2H), 7.79 (m, 1H), 7.44 (m, 4H), 3.79 (s, 3H), 2.51 (s, 3H). MS: calculated for C17H14N2O6S+H 375.1; found: 375.3.

reactant | tosyl chloride | 160 mmol, 30.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 4-hydroxy-1-methyl-3-nitro-1H-quinolin-2-one | 145.0 mmol, 32.0 g | OC1=C(C(N(C2=CC=CC=C12)C)=O)[N+](=O)[O-] | C10H8N2O4
reactant | Et3N | 174.4 mmol, 17.65 g | CCN(CC)CC | C6H15N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | DMAP | 1.45 mmol, 0.178 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 300 mL | CC#N | C2H3N
product | toluene-4-sulfonic acid 1-methyl-3-nitro-2-oxo-1,2-dihydro-quinolin-4-yl ester | 41.0 g, 75% | CN1C(C(=C(C2=CC=CC=C12)OS(=O)(=O)C1=CC=C(C=C1)C)[N+](=O)[O-])=O | C17H14N2O6S
